US06548522B1
(RS)-2-(3,4-Difluoro-phenyl)-N-hexyl-2-pyridin-2-yl-acetamide
The title compound, amorphous, MS: m/e=333.3 (M+H+) was prepared in accordance with the general method of example 22(a) from (RS)-2-(3,4-difluoro-phenyl)-2-pyridin-2-yl-acetic acid methyl ester and hexylamine.

reactant | (RS)-2-(3,4-difluoro-phenyl)-2-pyridin-2-yl-acetic acid methyl ester | COC(C(C1=NC=CC=C1)C1=CC(=C(C=C1)F)F)=O | C14H11F2NO2
reactant | hexylamine | C(CCCCC)N | C6H15N
product | (RS)-2-(3,4-Difluoro-phenyl)-N-hexyl-2-pyridin-2-yl-acetamide | FC=1C=C(C=CC1F)C(C(=O)NCCCCCC)C1=NC=CC=C1 | C19H22F2N2O
